US06420359B1
b) 2-(Ethylamino)-6fluoro-3-nitropyridine
To a solution of 2,6-difluoro-3-nitropyridine (45.7 g, 285 mmol) in THF (500 mL) at −40° C. was added drop-wise a solution of ethylamine (25.7 g, 570 mmol) in THF (250 mL). After 30 min, the reaction mixture was concentrated under reduced pressure and the residue was dissolved in EtOAc. The organic phase was washed with brine, dried (MgSO4), filtered and concentrated. The resulting yellow solid was purified by flash chromatography (15% EtOAc in hexane) to give the title compound (43.2 g, 82% yield) as a yellow solid.

reactant | 2,6-difluoro-3-nitropyridine | 285 mmol, 45.7 g | FC1=NC(=CC=C1[N+](=O)[O-])F | C5H2F2N2O2
reactant | ethylamine | 570 mmol, 25.7 g | C(C)N | C2H7N
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-(Ethylamino)-6fluoro-3-nitropyridine | 43.2 g, 82% yield | C(C)NC1=NC(=CC=C1[N+](=O)[O-])F | C7H8FN3O2
